US06586445B1
(1R)-1-(4,5-Dimethyl-1,3-oxazol-2-yl)-2-(1H-indol-3-yl)-1-ethanamine Hydrochloride
A solution of tert-butyl(1R)-1-(4,5-dimethyl-1,3-oxazol-2-yl)-2-(1H-indol-3-yl)ethylcarbamate (3 g, 8.4 mmol) in HCl/AcOEt 1N (80 ml) was stirred at room temperature for about 2.5 hours. The mixture was concentrated under reduced pressure, diethyl ether (100 ml) added, and the white precipitate collected by filtration, and washed with diethyl ether to afford the hydrochloride salt of the desired product (2.4 g). Melting point: 172-174° C.

reactant | tert-butyl(1R)-1-(4,5-dimethyl-1,3-oxazol-2-yl)-2-(1H-indol-3-yl)ethylcarbamate | 8.4 mmol, 3 g | CC=1N=C(OC1C)[C@@H](CC1=CNC2=CC=CC=C12)NC(OC(C)(C)C)=O | C20H25N3O3
reactant | HCl AcOEt | 1N, 80 ml | Cl.CCOC(=O)C
product | (1R)-1-(4,5-Dimethyl-1,3-oxazol-2-yl)-2-(1H-indol-3-yl)-1-ethanamine Hydrochloride | 2.4 g | Cl.CC=1N=C(OC1C)[C@@H](CC1=CNC2=CC=CC=C12)N | InChI=1S/C15H17N3O.ClH/c1-9-10(2)19-15(18-9)13(16)7-11-8-17-14-6-4-3-5-12(11)14;/h3-6,8,13,17H,7,16H2,1-2H3;1H/t13-;/m1./s1
